US05834501
5-[4-(Indolin-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-59)
A mixture of 3.55 g of 5-[4-(1-t-butoxycarbonyl-indolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 4) and 30 ml of trifluoroacetic acid was stirred at room temperature for 1 hour. At the end of this time, the reaction mixture was poured into water and the aqueous mixture was neutralized by the addition of sodium hydrogencarbonate, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography through silica gel, using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.41 g of the title compound. This product was dissolved in ethanol and precipitated by adding water, to give a powder melting at 55.8°-58.2° C.

reactant | 5-[4-(1-t-butoxycarbonyl-indolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 3.55 g | C(C)(C)(C)OC(=O)N1C(CC2=CC=CC=C12)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C43H40N2O5S
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 5-[4-(Indolin-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 0.41 g | N1C(CC2=CC=CC=C12)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H18N2O3S
